US05282983
400 g a 40% aqueous solution of methylamine and 180 g of 9-chlorononanol were introduced into an autoclave equipped with a stirrer, a thermometer and a pressure pump and heated to 100° C. At the temperature, 93 g of a 48% aqueous solution of sodium hydroxide was forcedly introduced to the autoclave over 6 hours and the resulting mixture was aged for 1 hours. After cooling, the content was taken out from the autoclave and unreacted methylamine and water were removed therefrom under reduced pressure. Then, ethanol was added thereto and sodium chloride thus precipitated was filtered off. Ethanol was distilled off from the filtrate and the resulting solution was further subjected to distillation to give 125 g of 9-(N-methylamino)nonanol.

reactant | methylamine | CN | CH5N
reactant | 9-chlorononanol | 180 g | ClCCCCCCCCCO | C9H19ClO
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 9-(N-methylamino)nonanol | 125 g | CNCCCCCCCCCO | C10H23NO
